US05693787
1,3-Oxathiolan-5-One-2-Carboxylic Acid
Toluene (700 mL), mercaptoacetic acid (38 mL, 50.03 g, 0.543 mol), and p-toluenesulfonic acid (1.0 g) were added to a solution of glyoxylic acid monohydrate (50.0 g, 0.543 mol) in 200 mL of THF in a 2 L round bottom flask equipped with a Dean-Stark trap and condenser. The resultant reaction mixture was refluxed for 3 hours until 24.0 mL of H2O was azeotropically removed. The reaction mixture was cooled, followed by removal of solvent under reduced pressure to yield an off-white solid. This material was purified by recrystallization (hexanes-EtOAc) to give 60.0 g of the product as a crystalline white solid: m.p. 140°-143° C.; 1H NMR (DMSO) δ 3.84 (q, 2H, JAB=16.7 Hz), 6.00 (s, 1H).

reactant | Toluene | 700 mL | C1(=CC=CC=C1)C | C7H8
reactant | mercaptoacetic acid | 0.543 mol, 38 mL, 50.03 g | SCC(=O)O | C2H4O2S
reactant | glyoxylic acid monohydrate | 0.543 mol, 50.0 g | O.C(C=O)(=O)O
reactant | H2O | 24.0 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | p-toluenesulfonic acid | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1,3-Oxathiolan-5-One-2-Carboxylic Acid | 60.0 g | O1C(SCC1=O)C(=O)O | C4H4O4S
